US05508300
3-Hydroxy-2-oxo-4-propionyl-2,5-dihydropyrrole
Reaction of ethyl 2,4-dioxohexanoate with dimethylmethylene ammonium chloride and ammonia, analogous to the procedure in Preparation 8, gave the title compound as an amorphous solid. 1H nmr (250 MHz, DMSO-d6) δ 0.99 (t, J=7.3 Hz, 3H), 2.75 (q, J=7.3 Hz, 2H), 3.81 (s, 2H), 8.84 (s, 1H).

reactant | ethyl 2,4-dioxohexanoate | O=C(C(=O)OCC)CC(CC)=O | C8H12O4
reactant | dimethylmethylene ammonium chloride | [Cl-].CC(C)=[NH2+]
reactant | ammonia | N | H3N
product | 3-Hydroxy-2-oxo-4-propionyl-2,5-dihydropyrrole | OC=1C(NCC1C(CC)=O)=O | C7H9NO3
